US08981111B2
To a solution of N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-(3-thienyl)methanimine (4.96 g, 23.9 mmol) and 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride (4.88 g, 26.3 mmol) in acetonitrile (50 mL) were added cesium carbonate (13.5 g, 41.4 mmol) and potassium iodide (327 mg, 1.97 mmol). After stirring at room temperature for 51 h, 1,4-dioxane (25 mL) and potassium iodide (5.90 g, 35.5 mmol) were added and the mixture was stirred for 72 h at room temperature then at 70° C. for 3.5 h. The reaction mixture was filtered, the insolubles washed with acetone and methanol, and the filtrate concentrated in vacuo, diluted in ethyl acetate (50 mL), washed with water (2×30 mL), dried over MgSO4 and concentrated to dryness in vacuo. Purification of the residue on silica gel afforded 4-[({[(1-methyl-1H-imidazol-5-yl)(3-thienyl)methylene]amino}oxy)-methyl]-1,3-thiazol-2-amine [850 mg, yield 11%; HPLC/MS: m/z=320 (M+H); log P(HCOOH)=0.45].

reactant | N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-(3-thienyl)methanimine | 23.9 mmol, 4.96 g | ON=C(C1=CSC=C1)C1=CN=CN1C | C9H9N3OS
reactant | 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride | 26.3 mmol, 4.88 g | Cl.ClCC=1N=C(SC1)N
reactant | cesium carbonate | 41.4 mmol, 13.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 1.97 mmol, 327 mg | [I-].[K+]
reactant | potassium iodide | 35.5 mmol, 5.90 g | [I-].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 4-[({[(1-methyl-1H-imidazol-5-yl)(3-thienyl)methylene]amino}oxy)-methyl]-1,3-thiazol-2-amine | 850 mg, yield 11% | CN1C=NC=C1C(C1=CSC=C1)=NOCC=1N=C(SC1)N | C13H13N5OS2
